US08835472B2
N-(1-(4-((4-(pentan-3yloxy)phenyl)ethynyl)phenyl)propan-2-yl)acetamide
14.7 μl (0.14 mmol) 3-pentanol, 40 mg (0.14 mmol) N-(1-(4-((4-hydroxyphenyl)-ethynyl)phenyl)propan-2-yl)acetamide (I74.1) and 69.8 mg (0.21 mmol) polymer bound triphenylphosphine (˜3 mmol/g) are added to 1 mL THF followed by 31.4 mg (0.14 mmol) DBAD. After stirring the mixture for 2 h at r.t. further 7.5 μl (0.07 mmol) 3-pentanol and 16 mg (0.07 mmol) DBAD are added and stirring is continued for 72 h. The reaction mixture is filtered and the filtrate is purified by HPLC (MeOH/H2O/TFA).

reactant | 3-pentanol | 0.14 mmol, 14.7 μl | CCC(CC)O | C5H12O
reactant | N-(1-(4-((4-hydroxyphenyl)-ethynyl)phenyl)propan-2-yl)acetamide | 0.14 mmol, 40 mg | OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C19H19NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBAD | 0.14 mmol, 31.4 mg | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | 3-pentanol | 0.07 mmol, 7.5 μl | CCC(CC)O | C5H12O
reactant | DBAD | 0.07 mmol, 16 mg | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(1-(4-((4-(pentan-3yloxy)phenyl)ethynyl)phenyl)propan-2-yl)acetamide | CCC(CC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C24H29NO2
